US05614532
7-Chloro-3-phenyl-4-[(2-oxo)propoxy]-2(1H)-quinolone
To a stirred suspension of 7-chloro-4-hydroxy-3-phenyl-2(1H)-quinolone (0.50 g 0.0018 mol), sodium hydrogen carbonate (1.55 g, 0.018 mol) and sodium iodide (0.20 g) in N,N-dimethylformamide (20 ml) was added chloroacetone (0.20 g, 0.0020 mol). The reaction was stirred for 24 h, then the product was precipitated by the addition of water (50 ml). The product was collected by filtration, washed with water (3×10 ml) and dried under vacuum at 60° C. Recrystallisation from ethyl acetate/60-80 petrol gave a white crystalline solid; yield=390 mg, mp=185°-186° C.; Found: C, 66.20; H, 4.33; N, 4.20; C18H14ClNO3 requires C, 65.96; H, 4.31; N, 4.27. δ (360 MHz, DMSO-d6), 1.84 (3H, s, CH3CO), 4.26 (2H, s, CH2), 7.26 (1H, dd, J=8.7 and 2.1 Hz, 6-H), 7.30-7.46 (6H, m, aromatics), 8.02 (1H, d, J=8.7 Hz, 5-H), 11.90(1H, s, br, NH). MS (CI) m/z=328 (MH)+.

reactant | 7-chloro-4-hydroxy-3-phenyl-2(1H)-quinolone | 0.0018 mol, 0.50 g | ClC1=CC=C2C(=C(C(NC2=C1)=O)C1=CC=CC=C1)O | C15H10ClNO2
reactant | sodium hydrogen carbonate | 0.018 mol, 1.55 g | C(O)([O-])=O.[Na+]
reactant | sodium iodide | 0.20 g | [I-].[Na+]
reactant | chloroacetone | 0.0020 mol, 0.20 g | ClCC(C)=O | C3H5ClO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 7-Chloro-3-phenyl-4-[(2-oxo)propoxy]-2(1H)-quinolone | ClC1=CC=C2C(=C(C(NC2=C1)=O)C1=CC=CC=C1)OCC(C)=O | C18H14ClNO3
